US06667316B1
Triethylamine (0.52 g, 5.11 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]isoindoline-1,3-dione hydrochloride(1.0 g, 2.13 mmol). The clear solution was cooled in an ice bath to 5° C. Chloroacetyl chloride (0.30 g, 2.56 mmol) was added keeping the temperature between 5-9° C. The mixture was stirred at 5° C. for 30 min and then warmed to room temperature for 2 hours. The mixture was washed with water (2×30 mL), brine (30 mL) and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was purified by chromatography (silica gel, methylene chloride:ethyl acetate 7:3) to give 2-chloro-N-({2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}methyl)acetamide (1.0 g, 92%): 1H NMR (CDCl3) δ7.84-7.65 (m, 4H), 7.14-7.12 (m, 2H), 6.86 (d, J=8.9 Hz, 1H), 5.94-5.88 (dd, J=4.6, 10.3 Hz, 1H), 4.79 (d, J=6.5 Hz, 2H), 4.61-4.51 (dd, J=10.4, 14.4 Hz, 1H), 4.10 (q, J=7.2 Hz, 2H), 4.02 (s, 2H), 3.85 (s, 3H), 3.80-3.72 (dd, J=4.6, 14.4 Hz, 1H), 2.86 (s, 3H), 1.47 (t, J=7.0 Hz, 3H).

reactant | Triethylamine | 5.11 mmol, 0.52 g | C(C)N(CC)CC | C6H15N
reactant | 4-(aminomethyl)-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]isoindoline-1,3-dione hydrochloride | 2.13 mmol, 1.0 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O
reactant | Chloroacetyl chloride | 2.56 mmol, 0.30 g | ClCC(=O)Cl | C2H2Cl2O
product | 2-chloro-N-({2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}methyl)acetamide | 1.0 g, 92% | ClCC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O | C23H25ClN2O7S
